US07713973B2
4-(3-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)piperazin-2-one
4-(3-Bromobenzyl)piperazin-2-one (356 mg, 1.32 mmol), bis(pinacolato)diboron (370 mg, 1.46 mmol), potassium acetate (388 mg, 3.95 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (32 mg, 0.039 mmol) were combined in DMF (10 mL), and the reaction stirred at 80° C. under N2 for 4 h. The cooled solution was partitioned between EtOAc and water. Organics were washed with brine, dried (MgSO4), and concentrated in vacuo. Purification by silica gel chromatography (50% EtOAc/hexanes then 10% MeOH/DCM) gave 261 mg (63%) of the title compound as a tan solid. [M+H] calc'd for C17H26BN2O3, 317; found, 317.

reactant | 4-(3-Bromobenzyl)piperazin-2-one | 1.32 mmol, 356 mg | BrC=1C=C(CN2CC(NCC2)=O)C=CC1 | C11H13BrN2O
reactant | bis(pinacolato)diboron | 1.46 mmol, 370 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.95 mmol, 388 mg | C(C)(=O)[O-].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.039 mmol, 32 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(3-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)piperazin-2-one | 261 mg, 63% | CC1(OB(OC1(C)C)C=1C=C(CN2CC(NCC2)=O)C=CC1)C | C17H25BN2O3
